US08633200B2
To a solution of ethyl 2-(7-chloro-2-(3-chlorophenyl)-3,5-dimethylpyrazolo[1,5-a]pyrimidin-6-yl)-2-hydroxyacetate (5.4 g, 12.33 mmol) in CH2Cl2 (100 ml) was added Dess-Martin periodinane (5.75 g, 13.56 mmol). The reaction was stirred 1 hr, then diluted with EtOAc (600 mL) and washed with saturated aqueous NaHCO3 (200 mL). The organic layer was then dried (NaHSO4), filtered, and concentrated. The residue was triturate with Et2O, stirring vigorously for 30 min, collecting solids by vacuum. The semi-pure product was purified by flash silica gel column and eluted with 10-20% EtOAc in hexanes, affording the product, ethyl 2-(7-chloro-2-(3-chlorophenyl)-3,5-dimethylpyrazolo[1,5-a]pyrimidin-6-yl)-2-oxoacetate (3.5 g, 8.92 mmol, 72.4% yield) as a pale yellow solid. 1H NMR (500 MHz, CDCl3) δ: 7.89-7.86 (m, 1H), 7.78-7.73 (m, 1H), 7.45-7.41 (m, 2H), 4.45 (q, J=7.1 Hz, 2H), 2.63 (s, 3H), 2.53 (s, 3H), 1.42 (t, J=7.2 Hz, 3H). LCMS (M+H)=392.1.

reactant | ethyl 2-(7-chloro-2-(3-chlorophenyl)-3,5-dimethylpyrazolo[1,5-a]pyrimidin-6-yl)-2-hydroxyacetate | 12.33 mmol, 5.4 g | ClC1=C(C(=NC=2N1N=C(C2C)C2=CC(=CC=C2)Cl)C)C(C(=O)OCC)O | C18H17Cl2N3O3
reactant | Dess-Martin periodinane | 13.56 mmol, 5.75 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
solvent | CH2Cl2 | 100 ml | C(Cl)Cl | CH2Cl2
solvent | EtOAc | 600 mL | CCOC(=O)C | C4H8O2
product | ethyl 2-(7-chloro-2-(3-chlorophenyl)-3,5-dimethylpyrazolo[1,5-a]pyrimidin-6-yl)-2-oxoacetate | 8.92 mmol, 3.5 g, 72.4% yield | ClC1=C(C(=NC=2N1N=C(C2C)C2=CC(=CC=C2)Cl)C)C(C(=O)OCC)=O | C18H15Cl2N3O3
